US08669234B2
(1-{5-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-3-phenyl-imidazolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (90 mg) was dissolved in m-xylenes (3 mL) and heated at 135° C. Solid ammonium acetate (100 mg, 1.29 mmol) was added and the reaction was stirred at 135° C. After 120 minutes, the reaction was cooled to room temperature and the volatiles were removed in vacuo. The crude material was purified via silica gel chromatography (eluent: EtOAc/hexanes) to yield the product {1-[4-(4-Bromo-phenyl)-1′-phenyl-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (40.2 mg, 0.0764 mmol): LCMS-ESI+: calc'd for C25H28BrN5O3: 526.4 (M+). Found: 526.4/528.3 (M+H+).

reactant | (1-{5-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-3-phenyl-imidazolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 90 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C(NCC(=O)C1=CC=C(C=C1)Br)=O)C1=CC=CC=C1)=O | C25H29BrN4O5
reactant | ammonium acetate | 1.29 mmol, 100 mg | C(C)(=O)[O-].[NH4+]
product | {1-[4-(4-Bromo-phenyl)-1′-phenyl-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.0764 mmol, 40.2 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C=1NC=C(N1)C1=CC=C(C=C1)Br)C1=CC=CC=C1)=O | C25H28BrN5O3
